data/oMe_Silver.jsonl
{"reaction_id": "NR-073_1-C_2-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2","name": "Fritsch-Buttenberg-Wiechell Rearrangement","level": "medium","reactants_smiles": ["C(=C(Br))(C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)"],"products_smiles": ["C(C)#C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)"],"conditions": "Base (e.g., LDA)","mechnism_text_description": "The Fritsch-Buttenberg-Wiechell rearrangement begins with the deprotonation of the vinylic hydrogen by a strong base, forming a vinyl anion. This is followed by an α-elimination of the halide, which generates a vinyl carbene intermediate. The final step involves a 1,2-migration of one of the R groups, leading to the formation of the alkyne product.","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=[C-]Br)(C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)","step_weight": 0,"rationale": "LDA, a strong non-nucleophilic base, abstracts the acidic vinylic proton due to the adjacent electron-withdrawing bromine, stabilizing the resulting vinyl anion via inductive effects."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=[C])(C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)","step_weight": 0,"rationale": "The negatively charged carbon promotes α-elimination of bromide, a good leaving group, forming a high-energy vinyl carbene stabilized transiently by adjacent substituents."},{"step": 3,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(C)#C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)","step_weight": 0,"rationale": "The carbene undergoes a 1,2-shift of C or CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2 to relieve electron deficiency, forming the more stable, conjugated alkyne via rehybridization to sp."}],"description": "A strong base deprotonates the vinylic position to generate a vinyl anion, which undergoes α-elimination of bromide to form a reactive vinyl carbene. A 1,2-shift of an R group then produces the thermodynamically stable alkyne product."}
{"reaction_id": "NR-242_1-C(C)(C)C_2-C_3-CCOC","level": "hard","name": "Stobbe Condensation","reactants_smiles": ["C(=O)(C(C)(C)C)(C)","C(=O)(OCCOC)CCC(=O)(OCCOC)"],"products_smiles": ["C(=C(C(=O)OCCOC)CC(=O)O)(C(C)(C)C)(C)"],"conditions": "1. Base (e.g. NaOMe), 2. H3O+","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C([O-])(C(C)(C)C)(C)C(C(=O)OCCOC)CC(=O)OCCOC","step_weight": 0,"rationale": "Base deprotonates the α-position of C(C)(C)C–C ketone, generating an enolate stabilized by resonance with the carbonyl, which then attacks the electrophilic ester carbonyl of the diester."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(C)(C)C)(C)C(C(=O)OCCOC)CC([O-])(OCCOC)O1","step_weight": 0,"rationale": "Intramolecular nucleophilic attack occurs as the alkoxide oxygen attacks another ester carbonyl, favored by proximity and formation of a five-membered cyclic intermediate."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1(C(C)(C)C)(C)C(C(=O)OCCOC)CC(=O)O1","step_weight": 0,"rationale": "The alkoxide eliminates the alkoxy group from the ester, as the leaving group is stabilized by resonance with the adjacent carbonyl, forming a lactone."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C(C)(C)C)(C)[C-](C(=O)OCCOC)CC(=O)O1","step_weight": 0,"rationale": "Base abstracts an acidic α-proton adjacent to the lactone carbonyl, generating an enolate stabilized by conjugation with the carbonyl group."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C(C(=O)OCCOC)CC(=O)[O-])(C(C)(C)C)(C)","step_weight": 0,"rationale": "The enolate facilitates elimination of the alkoxide from the lactone, opening the ring and forming a conjugated α,β-unsaturated diester anion, driven by extended conjugation."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=C(C(=O)OCCOC)CC(=O)O)(C(C)(C)C)(C)","step_weight": 0,"rationale": "Acidic work-up protonates the carboxylate anion, yielding the neutral α,β-unsaturated diacid product."}],"description": "Under basic conditions, the Stobbe condensation proceeds via nucleophilic attack of an enolate on a diester, forming a cyclic intermediate. Sequential eliminations and proton transfers lead to an α,β-unsaturated diacid framework after acid work-up, driven by resonance stabilization and relief of ring strain."}
